US04262004
A mixture of 6 parts of N-(5-benzoyl-2-chlorophenyl)N'-(2-hydroxyethyl)thiourea, 2.5 parts of sodium hydride dispersion 75% and 90 parts of N,N-dimethylacetamide is stirred and heated quickly to 130° C. The reaction mixture is cooled, water is added and the whole is allowed to stand overnight. The precipitated product is filtered off, washed with water and crystallized from ethanol, yielding 2.8 parts of {2-[(2-hydroxyethyl)amino]-5-benzothiazolyl}phenylmethanone; mp. 159° C.

reactant | N-(5-benzoyl-2-chlorophenyl)N'-(2-hydroxyethyl)thiourea | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C1)NC(=S)NCCO)Cl | C16H15ClN2O2S
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | {2-[(2-hydroxyethyl)amino]-5-benzothiazolyl}phenylmethanone | OCCNC=1SC2=C(N1)C=C(C=C2)C(=O)C2=CC=CC=C2 | C16H14N2O2S
